US07989457B2
Step J. 3-{4-[1-(4′-Trifluoromethyl-biphenyl-4-ylmethyl)-propoxy]-benzoylamino}-propionic acid methyl ester
4-[1-(4′-Trifluoromethyl-biphenyl-4-ylmethyl)-propoxy]-benzoic acid (0.018 g, 0.04 mmol), PyBOP (0.027 g, 0.05 mmol), 3-amino-propionic acid methyl ester hydrochloride (0.011 g, 0.08 mmol), and ethyl-diisopropyl-amine (0.03 mL, 0.18 mmol) are dissolved in N,N-dimethyl-formamide (1 mL) and stirred for sixteen hours. The mixture is diluted with ethyl acetate, washed with water two times then brine. Organic layers are dried over sodium sulfate, filtered and concentrated under reduced pressure. Column chromatography on silica gel with 0-70% ethyl acetate/hexane gradient affords 0.012 g (0.02 mmol, 60%) of title compound.

reactant | 4-[1-(4′-Trifluoromethyl-biphenyl-4-ylmethyl)-propoxy]-benzoic acid | 0.04 mmol, 0.018 g | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)CC(CC)OC1=CC=C(C(=O)O)C=C1)(F)F | C24H21F3O3
reactant | PyBOP | 0.05 mmol, 0.027 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | 3-amino-propionic acid methyl ester hydrochloride | 0.08 mmol, 0.011 g | Cl.COC(CCN)=O
reactant | ethyl-diisopropyl-amine | 0.18 mmol, 0.03 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethyl-formamide | 1 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 3-{4-[1-(4′-Trifluoromethyl-biphenyl-4-ylmethyl)-propoxy]-benzoylamino}-propionic acid methyl ester | 0.02 mmol, 0.012 g, 60% | COC(CCNC(C1=CC=C(C=C1)OC(CC)CC1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C28H28F3NO4
